US08604029B2
Hydrogen chloride gas was passed through a solution of 4-nitrophenyl acetonitrile (5.0 g, 30.8 mmol) in ethanol (400 mL) until saturation, keeping the temperature between 0-5° C. The solvent was removed under reduced pressure at 15° C. to give a residue which on trituration with diethyl ether gave a solid. The solid was filtered under a nitrogen atmosphere and washed thoroughly with diethyl ether. Drying under vacuum afforded ethyl 2-(4-nitrophenyl)-acetimidate hydrochloride (3.5 g, 47%) which was hygroscopic in nature.

reactant | Hydrogen chloride | Cl | ClH
reactant | 4-nitrophenyl acetonitrile | 30.8 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)CC#N | C8H6N2O2
reactant | ethanol | 400 mL | C(C)O | C2H6O
product | ethyl 2-(4-nitrophenyl)-acetimidate hydrochloride | 3.5 g, 47% | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CC(OCC)=N | InChI=1S/C10H12N2O3.ClH/c1-2-15-10(11)7-8-3-5-9(6-4-8)12(13)14;/h3-6,11H,2,7H2,1H3;1H
